US04997847
8-(4-Bromobenzenesulphonamido)octanoic Acid
A solution of 8-aminooctanoic acid in 10% sodium hydroxide solution was treated with 4-bromobenzenesulphonyl chloride in the manner of Example 2 to give the title compound which, on recrystallisation from aqueous ethanol, had a melting point of 115°-116° C.

reactant | 8-aminooctanoic acid | NCCCCCCCC(=O)O | C8H17NO2
reactant | 4-bromobenzenesulphonyl chloride | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | sodium hydroxide | [OH-].[Na+]
product | 8-(4-Bromobenzenesulphonamido)octanoic Acid | BrC1=CC=C(C=C1)S(=O)(=O)NCCCCCCCC(=O)O | C14H20BrNO4S
